US04395411
On the other hand, a mixture of 7-amino-3-[(1-hexyl-1H-tetrazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid (5.89 g) and trimethylsilyl acetamide (16 g) is methylene chloride (150 ml) was warmed to make a clear solution. The solution was cooled to -15° C. and added all at once to the activated acid solution prepared above. The reaction mixture was stirred for 30 minutes at -15° to 0° C. and for additional 30 minutes at ambient temperature. The solvent was removed by distillation from the reaction mixture under reduced pressure to give a residue, to which ethyl acetate (150 ml) and water (100 ml) were added, and then the mixed solution was adjusted to pH 3 with an aqueous solution of sodium bicarbonate. The organic layer was separated out, washed two times with an aqueous solution of sodium chloride and dried over magnesium sulfate, and then evaporated to dryness to give a brownish oil. This oil was washed three times with diethyl ether (70 ml) and triturated with diisopropyl ether to give a powder of 7-[2-(6-formamidopyridin-2-yl)-2-hydroxyiminoacetamido]-3-(1-hexyl-1H-tetrazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid (syn isomer), mp 74°-84° C. (dec.).

reactant | 7-amino-3-[(1-hexyl-1H-tetrazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid | 5.89 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCCCCC)C(=O)O)C1=O | C15H22N6O3S2
reactant | trimethylsilyl acetamide | 16 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 3-cephem-4-carboxylic acid | S1CC=C(N2[C@H]1CC2=O)C(=O)O | C7H7NO3S
